US08754226B2
(S)-3-(6-(Methylsulfonyl)pyridin-3-ylamino)-1-(piperidin-4-yl)pyrrolidin-2-one (0.076 g, 0.22 mmol) and 2,5-dichloropyrazine (0.054 g, 0.36 mmol) were dissolved in NMP (0.45 mL) and treated with DIEA (0.098 mL, 0.56 mmol). The mixture was stirred at 80° C. overnight and then cooled to ambient temperature. The reaction mixture was partitioned between EtOAc (40 mL) and H2O (20 mL). The mixture was filtered through a 0.45 μm nylon membrane and the solids were washed with EtOAc and then dried under high vacuum to provide (S)-1-(1-(5-chloropyrazin-2-yl)piperidin-4-yl)-3-(6-(methylsulfonyl)pyridin-3-ylamino)pyrrolidin-2-one (0.030 g, 0.067 mmol, 30%).

reactant | (S)-3-(6-(Methylsulfonyl)pyridin-3-ylamino)-1-(piperidin-4-yl)pyrrolidin-2-one | 0.22 mmol, 0.076 g | CS(=O)(=O)C1=CC=C(C=N1)N[C@@H]1C(N(CC1)C1CCNCC1)=O | C15H22N4O3S
reactant | 2,5-dichloropyrazine | 0.36 mmol, 0.054 g | ClC1=NC=C(N=C1)Cl | C4H2Cl2N2
reactant | DIEA | 0.56 mmol, 0.098 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 0.45 mL | CN1CCCC1=O | C5H9NO
product | (S)-1-(1-(5-chloropyrazin-2-yl)piperidin-4-yl)-3-(6-(methylsulfonyl)pyridin-3-ylamino)pyrrolidin-2-one | 0.067 mmol, 0.030 g, 30% | ClC=1N=CC(=NC1)N1CCC(CC1)N1C([C@H](CC1)NC=1C=NC(=CC1)S(=O)(=O)C)=O | C19H23ClN6O3S
